US06197962B1
First, 8.07 g (113 mmol) of crotonaldehyde and 9.69 g (58.0 mmol) of benzenesulfonyl cyanide were introduced to the same reaction vessel as in Example 1. Toluene (15 ml) as the solvent and butanol (1.5 ml) were added, and 1.45 g (5.80 mmol) of tributyl phosphate was added. Then the mixture was heated under reflux for 4 hours while agitating at an internal temperature of 116° C. in a nitrogen atmosphere, separating and removing water that was produced. After this solution was cooled to room temperature, the low-boiling components, such as solvent, etc., were removed under reduced pressure and the resulting concentrate was cooled in an ice bath to precipitate crystals. The crystals were filtered with a glass filter and washed with 10 ml of toluene that had been cooled to 5° C. or lower. Then the crystals were dried for 2 hours in vacuo to give 11.3 g of 2-benzenesulfonylpyridine as colorless crystals (purity of 99%, yield of 88% based on benzenesulfonyl cyanide).

reactant | crotonaldehyde | 113 mmol, 8.07 g | C(\C=C\C)=O | C4H6O
reactant | benzenesulfonyl cyanide | 58.0 mmol, 9.69 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | Toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | tributyl phosphate | 5.80 mmol, 1.45 g | P(=O)(OCCCC)(OCCCC)OCCCC | C12H27O4P
solvent | butanol | 1.5 ml | C(CCC)O | C4H10O
product | 2-benzenesulfonylpyridine | 11.3 g, yield of 88% | C1(=CC=CC=C1)S(=O)(=O)C1=NC=CC=C1 | C11H9NO2S
